US07842713B2
Preparation of Intermediate 350c: Ethyl 4-(Acetyloxy)-3-methyl-1-benzothiophene-6-carboxylate
Sodium acetate (90 g, 1.08 mol) was added under vigorous stirring to a solution of 3-(ethoxycarbonyl)-4-(4-methylthien-2-yl)but-3-enoic acid (61 g, 0.24 mol) in 700 mL of acetic anhydride. The reaction mixture was refluxed for 3 h and evaporated in vacuum (˜20 mmHg) at 70° C. until the solvent distillation ceased. The obtained crude product was suspended in 500 mL of dichloromethane. The suspension was filtered. The precipitate was washed by 250 mL of dichloromethane. The combined solutions were washed by 350 mL of a saturated aqueous solution of NaHCO3 and evaporated in vacuum to dryness. The obtained crude product was chromatographed on a layer of silica gel (250×150 mm) with hexane/ethyl acetate mixture (3:1) to give the desired product 38.5 g (140 mmol, 58%) as a solid.

reactant | Sodium acetate | 1.08 mol, 90 g | C(C)(=O)[O-].[Na+]
reactant | 3-(ethoxycarbonyl)-4-(4-methylthien-2-yl)but-3-enoic acid | 0.24 mol, 61 g | C(C)OC(=O)C(CC(=O)O)=CC=1SC=C(C1)C | C12H14O4S
solvent | acetic anhydride | 700 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | Ethyl 4-(Acetyloxy)-3-methyl-1-benzothiophene-6-carboxylate | 140 mmol, 38.5 g, 58% | C(C)(=O)OC1=CC(=CC2=C1C(=CS2)C)C(=O)OCC | C14H14O4S
